US07947684B2
A. 2-Fluoro-4-(6-methoxypyridin-3-yl)benzoic acid
The title compound is prepared as described in EXAMPLE 31, Part I, but with 4-bromo-2-fluorobenzoic acid and 6-methoxypyridin-3-ylboronic acid hydrochloride as starting materials, and 10 molar equivalents of 0.4M aqueous sodium carbonate. 1H NMR (DMSO) δ 13.30 (br s, 1H), 8.59 (d, 1H), 8.11 (dd, 1H), 7.90 (t, 1H), 7.68-7.57 (m, 2H), 6.91 (d, 1H), 3.88 (s, 3H). ESI MS (M+1)+: 248.

reactant | 4-bromo-2-fluorobenzoic acid | BrC1=CC(=C(C(=O)O)C=C1)F | C7H4BrFO2
reactant | 6-methoxypyridin-3-ylboronic acid hydrochloride | Cl.COC1=CC=C(C=N1)B(O)O
reactant | sodium carbonate | 0.4M | C([O-])([O-])=O.[Na+].[Na+]
product | 2-Fluoro-4-(6-methoxypyridin-3-yl)benzoic acid | FC1=C(C(=O)O)C=CC(=C1)C=1C=NC(=CC1)OC | C13H10FNO3
